US06919315B1
An 1 N aqueous solution of lithium hydroxide (227 ml, 227 mmol) was added to a solution of 2-oxo-1-azaspiro[3.3]heptane-1-carboxylic acid tert-butylester (48 g, 0.227 mmol) in tetrahydrofuran (200 ml). The reaction mixture was stirred for 2 h. Diethyl ether (200 ml) and water (200 ml) were added. The mixture was stirred for 16 h. The organic layer was isolated. The aqueous phase was extracted with diethyl ether (200 ml). The aqueous phase was acidified with a 10% aqueous solution of sodium hydrogen sulfate until pH 3. The formed precipitation was filtered off, washed with water, and dried in vacuo, to give 38.84 g of (1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid.

reactant | lithium hydroxide | 227 mmol, 227 ml | [OH-].[Li+]
reactant | 2-oxo-1-azaspiro[3.3]heptane-1-carboxylic acid tert-butylester | 0.227 mmol, 48 g | C(C)(C)(C)OC(=O)N1C(CC12CCC2)=O | C11H17NO3
reactant | Diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid | 38.84 g | C(C)(C)(C)OC(=O)NC1(CCC1)CC(=O)O | C11H19NO4
